US08580799B2
To a stirred solution of 6-[({[(Z)-(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine (10 g, 31 mmol) in dry THF (150 mL) were added 4-dimethylaminopyridine (38 mg, 0.31 mmol) and di-tert-butyl dicarbonate (6.71 g, 31 mmol). The reaction mixture was stirred at room temperature for 2 days, then concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with water, the organic layer was dried (MgSO4) and concentrated in vacuo. Purification on silica gel afforded tert-butyl {6-[({[(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]-amino}oxy)methyl]pyridin-2-yl}carbamate as a yellow oil [2.72 g, yield 20%; HPLC/MS: m/z=426 (M+H); log P(HCOOH)=4.97].

reactant | 6-[({[(Z)-(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine | 31 mmol, 10 g | CC=1C(=NSN1)\C(\C1=CC=CC=C1)=N/OCC1=CC=CC(=N1)N | C16H15N5OS
reactant | di-tert-butyl dicarbonate | 31 mmol, 6.71 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.31 mmol, 38 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl {6-[({[(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]-amino}oxy)methyl]pyridin-2-yl}carbamate | yield 20% | CC=1C(=NSN1)C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C21H23N5O3S
